datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCCC2)C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCCC2)[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20]Cl.C[Si:63]1(C)CC[CH:11]([H:10])[CH2:62]1>>C[N:21](C)[CH:20](Cl)[H:10].C[Si:63]1(C)CC[CH+:11][CH2:62]1 10,11=10,20;20,21=21"
"CCCCCC[SiH2:11][H:10].[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CCCCCC[SiH2+:11].[H:10][CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].C[O:12][C:11]1=[CH:10][CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1>>C[O+:12]=[C:11]1[CH:10]([CH:20]2CC[C:22]([O-:23])=[C:21]2C)[CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[Si:63](C)(C)[O:12][C:11](C)=[CH2:10].Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>CC(C)(C)[Si:63](C)(C)[O+:12]=[C:11](C)[CH2:10][CH:20]1[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>CC(C)(C1=C(I)C=CC=C1)[O-:21].[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([S:20]C(F)(F)F)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21"
"CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC.O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>CC[O:83][P:72]([CH:10]([CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([B-:11](C2=CC=C(C)O2)(C2=CC=C(C)O2)[C:10]2=CC=C(C)O2)O1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CC1=CC=C([B:11](C2=CC=C(C)O2)C2=CC=C(C)O2)O1.CC1=CC=[C:10]([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)O1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:10]#[C:11][N:12]2CCC[C:63]2=[O:64])C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10](C2=CC=CC=C2)=[C:11]=[N+:12]2CCC[C:63]2=[O:64])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)(C)C[C:11](C)=[CH2:10].CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:50][C:22](=[CH:21][CH:20]([CH2:10][C+:11](C)CC(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
C[C:61]1=[N:10]CC[S:62]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:61]1=[N+:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)CC[S:62]1 10=20
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.C1C[N:10]2CCC1CC2>>C1C[N+:10]2([CH:20]([C:31]34C5C6C7C3[Fe:32]6754389%10C4C3C8C9C4%10)[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)CCC1CC2 10=20
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10]>>C1=CC=C([C:22]2=[CH:21][CH:20]([H:10])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1.FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1(C)[O:62][C:11]([O-:12])=[C:10]([I+:72]C2=CC=CC=C2)[C:81](=[O:82])[O:92]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10]2([I+:72]C3=CC=CC=C3)[C:11](=[O:12])[O:62]C(C)(C)[O:92][C:81]2=[O:82])/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1.C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C>>C[CH:20]([N:10]1[CH:61]=[CH:62][N:72]=[C:71]1C)[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C 10=20
"C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:96])[CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F>>CC(C)(C1=C(I)C=CC=C1)[O-:21].FC(F)(F)[S:20][CH:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:96])[CH:93]=[CH:92]1 10=20;20,21=21"
"C/[CH:10]=[CH:11]\[N:12]1CCOCC1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[CH:10]([CH:11]=[N+:12]1CCOCC1)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
